US05902803
(1-Oxoindan-5-yl)acetic acid can be obtained in the following way: a solution of 50.9 g of ethyl [4-(3-chloro-1-oxopropyl)phenyl]acetate in 950 ml of 95% sulphuric acid is heated for 1 hour at 100° C. The reaction mixture is cooled to a temperature in the region of 20° C. and then poured into 4 liters of ice-cold water. The mixture is extracted three times with 1.5 liter of dichloromethane. The organic phase is washed three times with 1 liter of water, then dried over magnesium sulphate and evaporated under reduced pressure. 22.2 g of (1-oxoindan-5-yl)acetic acid are thus obtained in the form of a cream solid melting at 141° C. (1H NMR spectrum in CDCl3, T=300K, δ in ppm: 2.70 (2H, m, COCH2), 3.12 (2H, t, J=5 Hz, CH2), 3.68 (2H, s, CH2), 7.27 (1H, d, J=7 Hz, arom. CH), 7.45 (1H, s, arom. CH), 7.76 (1H, d, J=7 Hz, arom. CH)).

reactant | ethyl [4-(3-chloro-1-oxopropyl)phenyl]acetate | 50.9 g | ClCCC(=O)C1=CC=C(C=C1)CC(=O)OCC | C13H15ClO3
solvent | sulphuric acid | 950 ml | S(O)(O)(=O)=O | H2O4S
product | (1-oxoindan-5-yl)acetic acid | 22.2 g | O=C1CCC2=CC(=CC=C12)CC(=O)O | C11H10O3
